US04421690
A mixture of 3.50 g (0.0087 mol) of 4-(1-ethoxyethoxy)-3,3-difluoro-4-methyl-1-pentanol 1-(4-methylbenzenesulfonate), 40 mL of acetone, 0.5 mL of diisopropylethylamine and 13.10 g (0.087 mol) of sodium iodide was stirred at 25° C. for 64 hr. The mixture was evaporated to dryness. The residue was partitioned between 5% aqueous sodium sulfite solution and methylene chloride. The organic phase was washed with saturated aqueous sodium bicarbonate solution. The organic phase was then dried over anhydrous magnesium sulfate, filtered, and evaporated to dryness. The residue was chromatographed on 0.06-0.20 mm silica gel to yield 4-(1-ethoxyethoxy)-3,3-difluoro-1-iodo-4-methylpentane. NMR (CDCl3) δ4.98 (quartet, 1, J=7 Hz), 3.50 (quartet, 2, J=7 Hz), 3.28 (multiplet, 2), 2.60 (multiplet, 2), 1.32 (triplet, 6, J=1 Hz), 1.28 (doublet, 2, J=7 Hz), and 1.18 ppm (triplet, 3, J=7 Hz).

reactant | 4-(1-ethoxyethoxy)-3,3-difluoro-4-methyl-1-pentanol 1-(4-methylbenzenesulfonate) | 0.0087 mol, 3.50 g | CC1=CC=C(C=C1)S(=O)(=O)OCCC(C(C)(C)OC(C)OCC)(F)F | C17H26F2O5S
reactant | diisopropylethylamine | 0.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | 0.087 mol, 13.10 g | [I-].[Na+]
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | 4-(1-ethoxyethoxy)-3,3-difluoro-1-iodo-4-methylpentane | C(C)OC(C)OC(C(CCI)(F)F)(C)C | C10H19F2IO2
